US08703941B2
A solution of 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine (120 mg, 0.34 mmol, 1.00 equiv) in dioxane (5 mL), was added aniline (60 mg, 0.72 mmol, 2.00 equiv), XantPhos (20 mg, 0.03 mmol, 0.10 equiv) and Pd2(dba)3 (20 mg, 0.02 mmol, 0.06 equiv) subsequently under nitrogen. The resulting solution was stirred overnight at 110° C. After completion of the reaction, the solids were filtered out and the filtrate was diluted with DCM, washed with brine. The organic layer was concentrated under vacuum and the crude product (80 mg) was purified by Prep-HPLC with the following conditions (SHIMADZU): Column, SunFire Prep C18, 19*150 mm 5 um; mobile phase, water with 0.05% NH4HCO3 and CH3CN (25% CH3CN up to 100% in 15 min); Flow rate, 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated to remove water and CH3CN under reduced pressure. The residue was lyophilized overnight to give the 12-N-[4-(dimethylamino)cyclohexyl]-10-N-phenyl-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene-10,12-diamine (20 mg) as a grey solid. LCMS (ES, m/z): 408 [M+H]+;

reactant | 4-N-[10-chloro-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]-1-N,1-N-dimethylcyclohexane-1,4-diamine | 0.34 mmol, 120 mg, 1.00 equiv | ClC1=NC=2SC=3CCCC3C2C(=N1)NC1CCC(CC1)N(C)C | C17H23ClN4S
reactant | aniline | 0.72 mmol, 60 mg, 2.00 equiv | NC1=CC=CC=C1 | C6H7N
reactant | XantPhos | 0.03 mmol, 20 mg, 0.10 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 0.02 mmol, 20 mg, 0.06 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 12-N-[4-(dimethylamino)cyclohexyl]-10-N-phenyl-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraene-10,12-diamine | 20 mg | CN(C1CCC(CC1)NC1=NC(=NC=2SC=3CCCC3C12)NC1=CC=CC=C1)C | C23H29N5S
